US08193199B2
Prepared according to Procedure H using (8-chloro-2-phenylquinolin-3-yl)methanamine (0.050 g, 0.186 mmol), 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (0.034 g, 0.22 mmol, 1.2 eq) and DIEA (0.38 mmol, 2.0 eq) in n-butanol (3 mL). N-((8-chloro-2-phenylquinolin-3-yl)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine [PI3Kδ IC50=270 nM] was obtained after purification as a white solid. 1H-NMR (MeOD) δ ppm 8.65-8.76 (m, 1H), 8.53 (s, 1H), 8.11-8.20 (m, 4H), 8.07 (d, J=1.96 Hz, 1H), 7.91-8.00 (m, 2H), 7.86 (s, 1H), 7.51-7.58 (m, 2H), 4.73-4.85 (m, 2H), Mass Spectrum (ESI) m/e=386 (M+1).

reactant | (8-chloro-2-phenylquinolin-3-yl)methanamine | 0.186 mmol, 0.050 g | ClC=1C=CC=C2C=C(C(=NC12)C1=CC=CC=C1)CN | C16H13ClN2
reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 0.22 mmol, 0.034 g, 1.2 eq | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | DIEA | 0.38 mmol, 2.0 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | n-butanol | 3 mL | C(CCC)O | C4H10O
product | N-((8-chloro-2-phenylquinolin-3-yl)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | ClC=1C=CC=C2C=C(C(=NC12)C1=CC=CC=C1)CNC=1C2=C(N=CN1)NC=C2 | C22H16ClN5
